US05464788
1-benzyl-4-(2-methylphenyl)piperazine-2-carboxamide (2.64 g, 8.53 mmol) and palladium hydroxide/carbon (430 mg) were combined in a mixture of methanol (35 ml) and ethanol (35 ml) and shaken in an atmosphere of hydrogen at 55 psi for 6 hours at ambient temperature. The mixture was filtered and the filtrate was concentrated in vacuo. The residue was reconcentrated in vacuo from ether three times to provide 4-(2-methylphenyl)piperazine-2-carboxamide.

reactant | 1-benzyl-4-(2-methylphenyl)piperazine-2-carboxamide | 8.53 mmol, 2.64 g | C(C1=CC=CC=C1)N1C(CN(CC1)C1=C(C=CC=C1)C)C(=O)N | C19H23N3O
reactant | hydrogen | [H][H] | H2
solvent | methanol | 35 ml | CO | CH4O
solvent | ethanol | 35 ml | C(C)O | C2H6O
catalyst | palladium hydroxide/carbon | 430 mg | [OH-].[OH-].[Pd+2]
product | 4-(2-methylphenyl)piperazine-2-carboxamide | CC1=C(C=CC=C1)N1CC(NCC1)C(=O)N | C12H17N3O
